US05142056
(2S,3R4S,5S)-2,5-Di-(N-(t-butylaminocarbonyl)amino)-3,4-dihydroxy-1,6-diphenylhexane
A solution of 30 mg (0.1 mmol) of (2S,3R4S,5S)-2,5-diamino-3,4-dihydroxy-1,6-diphenylhexane in 1 ml of dichloromethane was treated with 25 μl (0.22 mmol) of t-butylisocyanate. The resulting solution was stirred at ambient temperature, diluted with dichloromethane, washed with brine, dried over Na2SO4, and concentrated in vacuo. Silica gel chromatography using a gradient of 1-3% methanol in chloroform provided 49 mg (98%) of the desired compound (Rf 0.4, 10% methanol in chloroform) as a white solid, m.p. 193°-196° C. Mass spectrum: (M+H)+ =499.

reactant | (2S,3R4S,5S)-2,5-diamino-3,4-dihydroxy-1,6-diphenylhexane | 0.1 mmol, 30 mg | N[C@@H](CC1=CC=CC=C1)[C@H]([C@H]([C@H](CC1=CC=CC=C1)N)O)O | C18H24N2O2
reactant | t-butylisocyanate | 0.22 mmol, 25 μl | C(C)(C)(C)N=C=O | C5H9NO
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (2S,3R4S,5S)-2,5-Di-(N-(t-butylaminocarbonyl)amino)-3,4-dihydroxy-1,6-diphenylhexane | 49 mg | C(C)(C)(C)NC(=O)N[C@@H](CC1=CC=CC=C1)[C@H]([C@H]([C@H](CC1=CC=CC=C1)NC(=O)NC(C)(C)C)O)O | C28H42N4O4
